US06437146B1
To a solution of (2S)-2-{3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl)methyl}benzoylamino}-3-phenylpropionic acid (85.4 mg, 0.147 mmol) in MeOH (3 ml) was added 1N sodium hydroxide (0.147 ml, 0.147 mmol) at 5° C . The reaction mixture was stirred at the same temperature for 30 minutes, and evaporated in vacuo. To the residue was added ethyl ether, and the resulting solid was collected by filtration to give sodium (2S)-2-{3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzoylamino}-3-phenylpropionate (84.9 mg, 96%).

reactant | (2S)-2-{3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl)methyl}benzoylamino}-3-phenylpropionic acid | 0.147 mmol, 85.4 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCCC1)CC=1C=C(C(=O)N[C@H](C(=O)O)CC2=CC=CC=C2)C=CC1 | C38H34N2O4
reactant | sodium hydroxide | 0.147 mmol, 1N, 0.147 ml | [OH-].[Na+]
solvent | MeOH | 3 ml | CO | CH4O
product | sodium (2S)-2-{3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzoylamino}-3-phenylpropionate | 84.9 mg, 96% | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCCC1)CC=1C=C(C(=O)N[C@H](C(=O)[O-])CC2=CC=CC=C2)C=CC1.[Na+] | InChI=1S/C38H34N2O4.Na/c41-36(39-33(38(42)43)25-26-13-4-1-5-14-26)31-21-12-15-27(24-31)23-30-20-10-11-22-32(30)37-40-34(28-16-6-2-7-17-28)35(44-37)29-18-8-3-9-19-29;/h1-9,12-19,21-22,24,30,33H,10-11,20,23,25H2,(H,39,41)(H,42,43);/q;+1/p-1/t30?,33-;/m0./s1
